* C:\users\user\Documents\sims\BGA427-LNA\BGA427_Test_Circuit.asc
V1 N001 0 AC 2
RG N001 in 50
R2 out 0 50
C2 N005 N006 100p
C1 in N002 820p
XU1 N004 N005 0 A63V0 A63V0
L1 0 N002 1µ
C4 N002 N003 820p
C3 N003 N004 100p
R1 out N006 68
R3 0 N006 100
R4 out 0 100
.ac dec 100 6e6 50e6
* Generator
* Symbol  A63V0.asy
.include A63V0.inc
.lib A63V0.inc
.backanno
.end
