.SUBCKT MMG3014N_SP 1 2 3 
* Copyright - Freescale Semiconductor, Inc., 2009.
* Rev. 0 
* MMG3014NT1 S-Parameters  
* 01/23/2009 
* mhz S ma R 50 
* Z1=50.000000 Z2=50.000000

R1N 1 10 -5.000000e+001
R1P 10 11 1.000000e+002
R2N 2 20 -5.000000e+001
R2P 20 21 1.000000e+002

*S11 FREQ MAG PHASE
E11 11 12 FREQ {V(10,3)}= MAG
+( 2.500000e+008, 6.217870e-001, 1.745531e+002)
+( 3.000000e+008, 6.177838e-001, 1.740149e+002)
+( 3.500000e+008, 6.160678e-001, 1.734292e+002)
+( 4.000000e+008, 6.129564e-001, 1.730248e+002)
+( 4.500000e+008, 6.113824e-001, 1.724556e+002)
+( 5.000000e+008, 6.109394e-001, 1.719678e+002)
+( 5.500000e+008, 6.100745e-001, 1.714271e+002)
+( 6.000000e+008, 6.101692e-001, 1.708805e+002)
+( 6.500000e+008, 6.103417e-001, 1.704375e+002)
+( 7.000000e+008, 6.113279e-001, 1.698997e+002)
+( 7.500000e+008, 6.124493e-001, 1.694728e+002)
+( 8.000000e+008, 6.261654e-001, 1.718237e+002)
+( 8.500000e+008, 6.252635e-001, 1.713551e+002)
+( 9.000000e+008, 6.245745e-001, 1.708649e+002)
+( 9.500000e+008, 6.239951e-001, 1.702451e+002)
+( 1.000000e+009, 6.239725e-001, 1.695949e+002)
+( 1.050000e+009, 6.242077e-001, 1.689379e+002)
+( 1.100000e+009, 6.252059e-001, 1.682504e+002)
+( 1.150000e+009, 6.264631e-001, 1.675802e+002)
+( 1.200000e+009, 6.280228e-001, 1.668910e+002)
+( 1.250000e+009, 6.293941e-001, 1.661401e+002)
+( 1.300000e+009, 6.319267e-001, 1.653937e+002)
+( 1.350000e+009, 6.344116e-001, 1.646472e+002)
+( 1.400000e+009, 6.364825e-001, 1.638350e+002)
+( 1.450000e+009, 6.396933e-001, 1.630027e+002)
+( 1.500000e+009, 6.425080e-001, 1.621692e+002)
+( 1.550000e+009, 6.459121e-001, 1.613483e+002)
+( 1.600000e+009, 6.493474e-001, 1.605363e+002)
+( 1.650000e+009, 6.528566e-001, 1.596985e+002)
+( 1.700000e+009, 6.567853e-001, 1.588746e+002)
+( 1.750000e+009, 6.608496e-001, 1.580488e+002)
+( 1.800000e+009, 6.647547e-001, 1.572293e+002)
+( 1.850000e+009, 6.685803e-001, 1.563716e+002)
+( 1.900000e+009, 6.730449e-001, 1.555316e+002)
+( 1.950000e+009, 6.770620e-001, 1.547133e+002)
+( 2.000000e+009, 6.807582e-001, 1.538406e+002)
+( 2.050000e+009, 6.849274e-001, 1.529987e+002)
+( 2.100000e+009, 6.889775e-001, 1.521556e+002)
+( 2.150000e+009, 6.928943e-001, 1.513221e+002)
+( 2.200000e+009, 6.970268e-001, 1.504538e+002)
+( 2.250000e+009, 7.008843e-001, 1.495738e+002)
+( 2.300000e+009, 7.047351e-001, 1.486900e+002)
+( 2.350000e+009, 7.085541e-001, 1.477971e+002)
+( 2.400000e+009, 7.118986e-001, 1.469051e+002)
+( 2.450000e+009, 7.150697e-001, 1.459626e+002)
+( 2.500000e+009, 7.186542e-001, 1.450211e+002)
+( 2.550000e+009, 7.216808e-001, 1.440922e+002)
+( 2.600000e+009, 7.244670e-001, 1.431346e+002)
+( 2.650000e+009, 7.277128e-001, 1.421749e+002)
+( 2.700000e+009, 7.302377e-001, 1.411919e+002)
+( 2.750000e+009, 7.330627e-001, 1.401920e+002)
+( 2.800000e+009, 7.356606e-001, 1.392282e+002)
+( 2.850000e+009, 7.377249e-001, 1.382047e+002)
+( 2.900000e+009, 7.404658e-001, 1.372148e+002)
+( 2.950000e+009, 7.423750e-001, 1.362008e+002)
+( 3.000000e+009, 7.446676e-001, 1.351803e+002)
+( 3.050000e+009, 7.467674e-001, 1.341728e+002)
+( 3.100000e+009, 7.491057e-001, 1.331405e+002)
+( 3.150000e+009, 7.513467e-001, 1.321438e+002)
+( 3.200000e+009, 7.532101e-001, 1.311169e+002)
+( 3.250000e+009, 7.557553e-001, 1.301250e+002)
+( 3.300000e+009, 7.578338e-001, 1.291116e+002)
+( 3.350000e+009, 7.598771e-001, 1.281064e+002)
+( 3.400000e+009, 7.617719e-001, 1.271070e+002)
+( 3.450000e+009, 7.638184e-001, 1.261152e+002)
+( 3.500000e+009, 7.659005e-001, 1.251385e+002)
+( 3.550000e+009, 7.680235e-001, 1.241720e+002)
+( 3.600000e+009, 7.696752e-001, 1.232215e+002)
+( 3.650000e+009, 7.715980e-001, 1.222636e+002)
+( 3.700000e+009, 7.736781e-001, 1.213365e+002)
+( 3.750000e+009, 7.751582e-001, 1.204020e+002)
+( 3.800000e+009, 7.770124e-001, 1.194833e+002)
+( 3.850000e+009, 7.783597e-001, 1.185650e+002)
+( 3.900000e+009, 7.800411e-001, 1.176360e+002)
+( 3.950000e+009, 7.812142e-001, 1.167371e+002)
+( 4.000000e+009, 7.827367e-001, 1.158070e+002)

*S12 FREQ MAG PHASE
E12 12 3 FREQ {V(20,3)}= MAG
+( 2.500000e+008, 3.361084e-002, 6.472782e-001)
+( 3.000000e+008, 3.363740e-002, 2.647022e-001)
+( 3.500000e+008, 3.365960e-002,-1.243064e-001)
+( 4.000000e+008, 3.374048e-002,-3.518600e-001)
+( 4.500000e+008, 3.377489e-002,-6.021003e-001)
+( 5.000000e+008, 3.382924e-002,-8.206011e-001)
+( 5.500000e+008, 3.388754e-002,-1.013861e+000)
+( 6.000000e+008, 3.394710e-002,-1.221071e+000)
+( 6.500000e+008, 3.399187e-002,-1.370145e+000)
+( 7.000000e+008, 3.404646e-002,-1.558378e+000)
+( 7.500000e+008, 3.412226e-002,-1.690148e+000)
+( 8.000000e+008, 3.348881e-002,-1.651193e+000)
+( 8.500000e+008, 3.367838e-002,-1.796914e+000)
+( 9.000000e+008, 3.386769e-002,-1.979022e+000)
+( 9.500000e+008, 3.405008e-002,-2.155948e+000)
+( 1.000000e+009, 3.423292e-002,-2.303422e+000)
+( 1.050000e+009, 3.440884e-002,-2.471132e+000)
+( 1.100000e+009, 3.458312e-002,-2.654292e+000)
+( 1.150000e+009, 3.474443e-002,-2.834915e+000)
+( 1.200000e+009, 3.490942e-002,-3.020918e+000)
+( 1.250000e+009, 3.506780e-002,-3.203969e+000)
+( 1.300000e+009, 3.522410e-002,-3.374570e+000)
+( 1.350000e+009, 3.537080e-002,-3.582120e+000)
+( 1.400000e+009, 3.551034e-002,-3.770241e+000)
+( 1.450000e+009, 3.562222e-002,-3.976647e+000)
+( 1.500000e+009, 3.573658e-002,-4.166315e+000)
+( 1.550000e+009, 3.585823e-002,-4.353959e+000)
+( 1.600000e+009, 3.596376e-002,-4.545357e+000)
+( 1.650000e+009, 3.607833e-002,-4.767327e+000)
+( 1.700000e+009, 3.616454e-002,-5.000617e+000)
+( 1.750000e+009, 3.626687e-002,-5.230211e+000)
+( 1.800000e+009, 3.635461e-002,-5.481534e+000)
+( 1.850000e+009, 3.644064e-002,-5.734117e+000)
+( 1.900000e+009, 3.651923e-002,-6.005602e+000)
+( 1.950000e+009, 3.659726e-002,-6.279022e+000)
+( 2.000000e+009, 3.666853e-002,-6.579636e+000)
+( 2.050000e+009, 3.674045e-002,-6.890408e+000)
+( 2.100000e+009, 3.681812e-002,-7.221454e+000)
+( 2.150000e+009, 3.688624e-002,-7.577638e+000)
+( 2.200000e+009, 3.694114e-002,-7.944409e+000)
+( 2.250000e+009, 3.700383e-002,-8.315791e+000)
+( 2.300000e+009, 3.706123e-002,-8.698045e+000)
+( 2.350000e+009, 3.713746e-002,-9.086326e+000)
+( 2.400000e+009, 3.718555e-002,-9.493551e+000)
+( 2.450000e+009, 3.725440e-002,-9.918499e+000)
+( 2.500000e+009, 3.731476e-002,-1.033279e+001)
+( 2.550000e+009, 3.737811e-002,-1.077090e+001)
+( 2.600000e+009, 3.743582e-002,-1.120316e+001)
+( 2.650000e+009, 3.750355e-002,-1.160651e+001)
+( 2.700000e+009, 3.759217e-002,-1.203478e+001)
+( 2.750000e+009, 3.770729e-002,-1.244822e+001)
+( 2.800000e+009, 3.781699e-002,-1.290082e+001)
+( 2.850000e+009, 3.795791e-002,-1.335122e+001)
+( 2.900000e+009, 3.809353e-002,-1.383576e+001)
+( 2.950000e+009, 3.823640e-002,-1.437436e+001)
+( 3.000000e+009, 3.835203e-002,-1.485514e+001)
+( 3.050000e+009, 3.849894e-002,-1.537769e+001)
+( 3.100000e+009, 3.863427e-002,-1.587537e+001)
+( 3.150000e+009, 3.878738e-002,-1.643228e+001)
+( 3.200000e+009, 3.891953e-002,-1.698205e+001)
+( 3.250000e+009, 3.901918e-002,-1.751336e+001)
+( 3.300000e+009, 3.914421e-002,-1.798977e+001)
+( 3.350000e+009, 3.927639e-002,-1.849567e+001)
+( 3.400000e+009, 3.937446e-002,-1.897747e+001)
+( 3.450000e+009, 3.950839e-002,-1.949164e+001)
+( 3.500000e+009, 3.964522e-002,-1.997932e+001)
+( 3.550000e+009, 3.974553e-002,-2.048339e+001)
+( 3.600000e+009, 3.983475e-002,-2.096475e+001)
+( 3.650000e+009, 3.993942e-002,-2.137358e+001)
+( 3.700000e+009, 4.003235e-002,-2.182743e+001)
+( 3.750000e+009, 4.014189e-002,-2.222194e+001)
+( 3.800000e+009, 4.025697e-002,-2.262936e+001)
+( 3.850000e+009, 4.037734e-002,-2.303491e+001)
+( 3.900000e+009, 4.049271e-002,-2.344235e+001)
+( 3.950000e+009, 4.060942e-002,-2.386479e+001)
+( 4.000000e+009, 4.066603e-002,-2.419558e+001)

*S21 FREQ MAG PHASE
E21 21 22 FREQ {V(10,3)}= MAG
+( 2.500000e+008, 1.027991e+001, 1.537510e+002)
+( 3.000000e+008, 9.929688e+000, 1.483032e+002)
+( 3.500000e+008, 9.892699e+000, 1.430693e+002)
+( 4.000000e+008, 9.534341e+000, 1.382855e+002)
+( 4.500000e+008, 9.586455e+000, 1.337981e+002)
+( 5.000000e+008, 9.299654e+000, 1.297636e+002)
+( 5.500000e+008, 9.008824e+000, 1.259563e+002)
+( 6.000000e+008, 8.715580e+000, 1.224182e+002)
+( 6.500000e+008, 8.363104e+000, 1.192150e+002)
+( 7.000000e+008, 8.064283e+000, 1.161625e+002)
+( 7.500000e+008, 7.750178e+000, 1.133230e+002)
+( 8.000000e+008, 7.308440e+000, 1.108815e+002)
+( 8.500000e+008, 7.072576e+000, 1.083580e+002)
+( 9.000000e+008, 6.837579e+000, 1.059612e+002)
+( 9.500000e+008, 6.628728e+000, 1.036649e+002)
+( 1.000000e+009, 6.422210e+000, 1.014890e+002)
+( 1.050000e+009, 6.226995e+000, 9.937448e+001)
+( 1.100000e+009, 6.044159e+000, 9.734829e+001)
+( 1.150000e+009, 5.866083e+000, 9.539868e+001)
+( 1.200000e+009, 5.699589e+000, 9.349874e+001)
+( 1.250000e+009, 5.545316e+000, 9.167774e+001)
+( 1.300000e+009, 5.392775e+000, 8.990620e+001)
+( 1.350000e+009, 5.256582e+000, 8.815911e+001)
+( 1.400000e+009, 5.116735e+000, 8.647291e+001)
+( 1.450000e+009, 4.987663e+000, 8.483796e+001)
+( 1.500000e+009, 4.863935e+000, 8.323152e+001)
+( 1.550000e+009, 4.741919e+000, 8.165775e+001)
+( 1.600000e+009, 4.630219e+000, 8.011703e+001)
+( 1.650000e+009, 4.516792e+000, 7.858274e+001)
+( 1.700000e+009, 4.413782e+000, 7.710502e+001)
+( 1.750000e+009, 4.312183e+000, 7.561951e+001)
+( 1.800000e+009, 4.215252e+000, 7.415463e+001)
+( 1.850000e+009, 4.122818e+000, 7.270844e+001)
+( 1.900000e+009, 4.033001e+000, 7.127206e+001)
+( 1.950000e+009, 3.947458e+000, 6.982457e+001)
+( 2.000000e+009, 3.864373e+000, 6.839053e+001)
+( 2.050000e+009, 3.782730e+000, 6.696149e+001)
+( 2.100000e+009, 3.707271e+000, 6.553503e+001)
+( 2.150000e+009, 3.632504e+000, 6.411179e+001)
+( 2.200000e+009, 3.562038e+000, 6.268553e+001)
+( 2.250000e+009, 3.493973e+000, 6.125956e+001)
+( 2.300000e+009, 3.425735e+000, 5.982001e+001)
+( 2.350000e+009, 3.363264e+000, 5.840662e+001)
+( 2.400000e+009, 3.298877e+000, 5.696062e+001)
+( 2.450000e+009, 3.239625e+000, 5.556475e+001)
+( 2.500000e+009, 3.180770e+000, 5.413580e+001)
+( 2.550000e+009, 3.124406e+000, 5.272024e+001)
+( 2.600000e+009, 3.070575e+000, 5.132249e+001)
+( 2.650000e+009, 3.017466e+000, 4.991982e+001)
+( 2.700000e+009, 2.967815e+000, 4.853493e+001)
+( 2.750000e+009, 2.919662e+000, 4.714344e+001)
+( 2.800000e+009, 2.872301e+000, 4.576454e+001)
+( 2.850000e+009, 2.827893e+000, 4.439040e+001)
+( 2.900000e+009, 2.784209e+000, 4.302538e+001)
+( 2.950000e+009, 2.742992e+000, 4.166174e+001)
+( 3.000000e+009, 2.703069e+000, 4.031500e+001)
+( 3.050000e+009, 2.663995e+000, 3.896899e+001)
+( 3.100000e+009, 2.627340e+000, 3.762915e+001)
+( 3.150000e+009, 2.590411e+000, 3.629153e+001)
+( 3.200000e+009, 2.555103e+000, 3.497475e+001)
+( 3.250000e+009, 2.521067e+000, 3.367957e+001)
+( 3.300000e+009, 2.487455e+000, 3.235748e+001)
+( 3.350000e+009, 2.455326e+000, 3.108439e+001)
+( 3.400000e+009, 2.422236e+000, 2.980949e+001)
+( 3.450000e+009, 2.391538e+000, 2.856809e+001)
+( 3.500000e+009, 2.360819e+000, 2.734299e+001)
+( 3.550000e+009, 2.330860e+000, 2.611646e+001)
+( 3.600000e+009, 2.301913e+000, 2.493038e+001)
+( 3.650000e+009, 2.272991e+000, 2.374629e+001)
+( 3.700000e+009, 2.245814e+000, 2.260103e+001)
+( 3.750000e+009, 2.218241e+000, 2.146473e+001)
+( 3.800000e+009, 2.192139e+000, 2.035351e+001)
+( 3.850000e+009, 2.166531e+000, 1.924630e+001)
+( 3.900000e+009, 2.142008e+000, 1.813869e+001)
+( 3.950000e+009, 2.117688e+000, 1.705321e+001)
+( 4.000000e+009, 2.091290e+000, 1.603850e+001)

*S22 FREQ MAG PHASE
E22 22 3 FREQ {V(20,3)}= MAG
+( 2.500000e+008, 4.478337e-001,-1.716105e+002)
+( 3.000000e+008, 4.569983e-001,-1.718777e+002)
+( 3.500000e+008, 4.647000e-001,-1.725221e+002)
+( 4.000000e+008, 4.746256e-001,-1.732739e+002)
+( 4.500000e+008, 4.834279e-001,-1.740339e+002)
+( 5.000000e+008, 4.895841e-001,-1.749196e+002)
+( 5.500000e+008, 4.966580e-001,-1.757816e+002)
+( 6.000000e+008, 5.028656e-001,-1.767667e+002)
+( 6.500000e+008, 5.077451e-001,-1.778625e+002)
+( 7.000000e+008, 5.121145e-001,-1.789116e+002)
+( 7.500000e+008, 5.162163e-001,-1.800200e+002)
+( 8.000000e+008, 5.348043e-001,-1.844515e+002)
+( 8.500000e+008, 5.351670e-001,-1.854964e+002)
+( 9.000000e+008, 5.355836e-001,-1.864575e+002)
+( 9.500000e+008, 5.359924e-001,-1.873523e+002)
+( 1.000000e+009, 5.367863e-001,-1.882352e+002)
+( 1.050000e+009, 5.370999e-001,-1.891280e+002)
+( 1.100000e+009, 5.377635e-001,-1.900518e+002)
+( 1.150000e+009, 5.383130e-001,-1.909290e+002)
+( 1.200000e+009, 5.387704e-001,-1.918402e+002)
+( 1.250000e+009, 5.398505e-001,-1.926904e+002)
+( 1.300000e+009, 5.402391e-001,-1.935341e+002)
+( 1.350000e+009, 5.413174e-001,-1.943819e+002)
+( 1.400000e+009, 5.426051e-001,-1.951444e+002)
+( 1.450000e+009, 5.439447e-001,-1.959403e+002)
+( 1.500000e+009, 5.453758e-001,-1.966719e+002)
+( 1.550000e+009, 5.470693e-001,-1.974217e+002)
+( 1.600000e+009, 5.488418e-001,-1.981712e+002)
+( 1.650000e+009, 5.503035e-001,-1.989256e+002)
+( 1.700000e+009, 5.521953e-001,-1.996663e+002)
+( 1.750000e+009, 5.538233e-001,-2.003810e+002)
+( 1.800000e+009, 5.556099e-001,-2.011221e+002)
+( 1.850000e+009, 5.574417e-001,-2.018319e+002)
+( 1.900000e+009, 5.587755e-001,-2.025543e+002)
+( 1.950000e+009, 5.603199e-001,-2.032914e+002)
+( 2.000000e+009, 5.619810e-001,-2.040276e+002)
+( 2.050000e+009, 5.629352e-001,-2.048133e+002)
+( 2.100000e+009, 5.637780e-001,-2.055905e+002)
+( 2.150000e+009, 5.643962e-001,-2.063808e+002)
+( 2.200000e+009, 5.647841e-001,-2.071956e+002)
+( 2.250000e+009, 5.647205e-001,-2.080150e+002)
+( 2.300000e+009, 5.646055e-001,-2.088430e+002)
+( 2.350000e+009, 5.644406e-001,-2.096683e+002)
+( 2.400000e+009, 5.637765e-001,-2.105262e+002)
+( 2.450000e+009, 5.633523e-001,-2.113976e+002)
+( 2.500000e+009, 5.624129e-001,-2.122585e+002)
+( 2.550000e+009, 5.616047e-001,-2.131672e+002)
+( 2.600000e+009, 5.611571e-001,-2.140722e+002)
+( 2.650000e+009, 5.598425e-001,-2.150229e+002)
+( 2.700000e+009, 5.592892e-001,-2.159644e+002)
+( 2.750000e+009, 5.585504e-001,-2.168955e+002)
+( 2.800000e+009, 5.578767e-001,-2.178981e+002)
+( 2.850000e+009, 5.574447e-001,-2.188662e+002)
+( 2.900000e+009, 5.569615e-001,-2.198548e+002)
+( 2.950000e+009, 5.569055e-001,-2.208553e+002)
+( 3.000000e+009, 5.567032e-001,-2.218789e+002)
+( 3.050000e+009, 5.567693e-001,-2.229011e+002)
+( 3.100000e+009, 5.568992e-001,-2.239191e+002)
+( 3.150000e+009, 5.572100e-001,-2.249077e+002)
+( 3.200000e+009, 5.576748e-001,-2.258794e+002)
+( 3.250000e+009, 5.582392e-001,-2.268339e+002)
+( 3.300000e+009, 5.586154e-001,-2.277774e+002)
+( 3.350000e+009, 5.596551e-001,-2.286910e+002)
+( 3.400000e+009, 5.601467e-001,-2.295491e+002)
+( 3.450000e+009, 5.611529e-001,-2.303914e+002)
+( 3.500000e+009, 5.620357e-001,-2.311475e+002)
+( 3.550000e+009, 5.628381e-001,-2.319106e+002)
+( 3.600000e+009, 5.641239e-001,-2.326137e+002)
+( 3.650000e+009, 5.649173e-001,-2.332681e+002)
+( 3.700000e+009, 5.659631e-001,-2.338770e+002)
+( 3.750000e+009, 5.670230e-001,-2.343868e+002)
+( 3.800000e+009, 5.679312e-001,-2.349154e+002)
+( 3.850000e+009, 5.689908e-001,-2.353935e+002)
+( 3.900000e+009, 5.698525e-001,-2.358488e+002)
+( 3.950000e+009, 5.708783e-001,-2.362832e+002)
+( 4.000000e+009, 5.722102e-001,-2.365273e+002)

.ENDS
